US09061030B2
A solution of 2-(5-bromo-1-(2-fluorobenzyl)-1H-1,2,4-triazol-3-yl)pyridine (I-16), in DMA is treated with a large excess of azetidine (e.g., ˜30 eq). The resultant solution is warmed to about 100° C. and stirred at that temperature for about 18 h. The reaction solution is cooled to room temperature, poured into 1N NaOH solution and then extracted with EtOAc. The organic phases are dried, e.g., over MgSO4 or Na2SO4, filtered and concentrated. The crude product is purified using SiO2 chromatography and an appropriate gradient (MeOH—CH3CN (1:7)/CH2Cl2) to yield 2-(5-(azetidin-1-yl)-1-(2-fluorobenzyl)-1H-1,2,4-triazol-3-yl)pyridine (I-23) as a solid.

reactant | 2-(5-bromo-1-(2-fluorobenzyl)-1H-1,2,4-triazol-3-yl)pyridine | BrC1=NC(=NN1CC1=C(C=CC=C1)F)C1=NC=CC=C1 | C14H10BrFN4
reactant | azetidine | ˜30 eq | N1CCC1 | C3H7N
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 2-(5-(azetidin-1-yl)-1-(2-fluorobenzyl)-1H-1,2,4-triazol-3-yl)pyridine | N1(CCC1)C1=NC(=NN1CC1=C(C=CC=C1)F)C1=NC=CC=C1 | C17H16FN5
